Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain x 3 months worse in the past week
 
Major Surgical or Invasive Procedure:
ERCP with stent placement

 
History of Present Illness:
 Mr. ___ is an ___ year old male who speaks ___ with
PMH of HTN and open CCY who presents with 1 week of abdominal
pain worse in the past 24 hours. He developed sharp, achey
intermittent epigastric abdominal pain which sometimes worsens
with eating about a week ago. It was mild initially but acutely
worsened overnight and is now very severe. He has had this pain
many times in the past. The last time it happened a year ago. He
went to the ED. He had an "operation on his gallbladder and 
there
was an infection." Since then he has not had the pain again 
until
3 months ago more notably in the past week. The pain is in the
same place as it was when he had a CCY.  He has no radiation of
the pain and denies any fevers, but + chills x 3 weeks every
other day. He does not report nausea, vomiting or diarrhea. He
denies any chest pain, dyspnea, DOE, worsening pain with
ambulation, arm pain, back pain, diaphoresis or nausea. He has
been having normal, brown stools with no hematochezia or melena;
last BM yesterday and passing gas. He denies any flank pain,
urinary symptoms, or hematuria. He denies any recent travel and
denies any heavy EtOH use.
VS on presentation:
4 |97.3 |69 |143/69 |18 |100% RA 
Tmax in the ED = 99.3
Medications received in the ED: Vancomycin 1 gm, morphine
IV/Zofran/LR x 1 L/cefepime/flagyl
 
Past Medical History:
S/p CCY ___
No other overnight hospitalizations
HLD
HTN
BPH-nocturnal frequency
 
Social History:
___
Family History:
He tells me that all of his family member are healthy
 
Physical Exam:
ADMISSION EXAM:
GENERAL: Elderly male laying in bed. He looks younger than his
stated age. 
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx: +++ very dry MM
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
Reducible hernia
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

Discharge Exam:
Vitals: temp 97.9; HR 127/68; HR 55; RR 18; O2 95% RA
Gen: elderly man sitting comfortably in bed, NAD
HEENT: EOMI, ___, MMM
Lungs: CTAB
Heart: RRR, S1 and S2
Abdomen: soft, NT, ND, +BS
Ext: warm, no ___ edema
Skin: no rashes appreciated
Psych: normal mood and affect
Neuro: AOx3, no focal deficits
 
Pertinent Results:
Admission labs:

___ 01:35PM BLOOD WBC-19.5* RBC-4.34* Hgb-13.6* Hct-40.9 
MCV-94 MCH-31.3 MCHC-33.3 RDW-14.1 RDWSD-48.7* Plt ___
___ 01:35PM BLOOD Plt ___
___ 01:42PM BLOOD ___ PTT-31.5 ___
___ 01:35PM BLOOD Glucose-191* UreaN-16 Creat-0.6 Na-135 
K-4.5 Cl-99 HCO3-21* AnGap-15
___ 01:35PM BLOOD ALT-83* AST-108* AlkPhos-534* 
TotBili-6.9* DirBili-5.3* IndBili-1.6
___ 01:35PM BLOOD Albumin-3.9 Calcium-9.5 Phos-1.9* Mg-2.3 
Iron-39*
___ 01:35PM BLOOD calTIBC-242* Ferritn-1618* TRF-186*
___ 01:51AM BLOOD %HbA1c-5.7 eAG-117
___ 05:35PM BLOOD ___ pO2-34* pCO2-41 pH-7.40 
calTCO2-26 Base XS-0
___ 01:43PM BLOOD Lactate-3.4*

Discharge Labs:

___ 07:07AM BLOOD WBC-6.7 RBC-3.90* Hgb-12.4* Hct-36.7* 
MCV-94 MCH-31.8 MCHC-33.8 RDW-14.3 RDWSD-49.2* Plt ___
___ 07:07AM BLOOD Plt ___
___ 07:07AM BLOOD Glucose-104* UreaN-10 Creat-0.7 Na-139 
K-4.6 Cl-104 HCO3-25 AnGap-10
___ 07:07AM BLOOD ALT-42* AST-43* AlkPhos-344* TotBili-3.6*

Images:
CXR ___- IMPRESSION:  
No acute intrathoracic process. 

CT abd/pelvis ___:
1. Mild intrahepatic and moderate extrahepatic biliary ductal 
dilatation with 
prominent biliary wall enhancement is worrisome for cholangitis. 
 Notably, 
there is abrupt narrowing to a normal caliber of the distal CBD 
near the 
ampulla which is nonspecific, but can be seen in ampullary 
stenosis.  No 
calcified choledocholithiasis.  MRCP or ERCP is recommended for 
further 
evaluation. 
2. Heterogeneous enhancement of the liver is nonspecific though 
could be 
related to cholangitis. 
3. Postsurgical changes in the right upper quadrant without 
concerning 
enhancement or fluid collection. 
4. Circular high-density objects within the stomach measure up 
to 1.6 cm and may represent metallic ingested objects.  Clinical 
correlation recommended. 

EUS ___: normal esophagus, stomach, duodenum. Ampulla appeared 
prominent. Double duct sign with dilation of CBD (up to 14mm) 
and PD (6mm). No discrete mass was noted

ERCP ___- successful ERCP with sphincterotomy and extraction of 
sludge. Biliary stent was placed. 

Cytology:
CBD brushings ___- pending
 
Brief Hospital Course:
Mr. ___ is a ___ male with H/O gallstones s/p CCY, HTN, 
HLD presents with abdominal pain, chills x 3 weeks, elevated 
LFTs, jaundice and leukocytosis c/w cholangitis.

# CHOLANGITIS
# CHILLS
# LEUKOCYTOSIS
# BILIARY OBSTRUCTION
He presents with leukocytosis and abdominal pain. CT abd/pelvis 
concerning for cholangitis. GI consulted and ERCP was done with 
spinchterotomy and stent placement on ___. Brushings were taken 
and sent to pathology which were pending on discharge. Blood 
cultures grew ___ bottles of E.coli sensitive to cipro. Urine 
cultures ___ showed no growth. Pt was initially given cefepime 
and flagyl. Diet was advanced successfully. Given cultures and 
was transitioned to ciprofloxacin  to complete total 10 day 
course of antibiotic through  ___. Pt will need to f/u w/ ERCP 
in ___ wks to have stent removed. 

# IRON BODIES IN STOMACH
Reported on initial CT scan in the ER. EGD was done on ___ (in 
conjuction with ERCP) and no abnormalities were found in 
stomach. It was ultimately felt that this was likely an 
erroneous reading on the images of the CT scan given lack of 
clinical correlation. 

CHRONIC/STABLE PROBLEMS:
# HTN: Held amlodipine given soft pressures at time of 
admission. BP improved and was restarted at time of discharge. 
# HLD: Hold statin given elevated LFTs at time of admission. 
Given LFTs downtrending this was restarted at time of discharge. 

# BPH: Continued home tamsulosin.

TRANSITIONAL ISSUES:
[ ] Follow-up ERCP brushings pathology
[ ] Follow-up with GI for repeat ERCP in ___ weeks
[ ] consider monitoring LFTs in a week to ensure normalizes

Greater than 30 min spent on discharge planning

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
5. Ibuprofen 400 mg PO BID 
6. Omeprazole 20 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 
8. Fish Oil (Omega 3) 1000 mg PO BID 
9. Glucosamine (glucosamine sulfate) 500 mg oral BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 750 mg PO Q12H 
RX *ciprofloxacin HCl 750 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
2.  amLODIPine 10 mg PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 40 mg PO QPM  
5.  Fish Oil (Omega 3) 1000 mg PO BID  
6.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
7.  Glucosamine (glucosamine sulfate) 500 mg oral BID  
8.  Ibuprofen 400 mg PO BID  
9.  Omeprazole 20 mg PO DAILY  
10.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cholangitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

We admitted you to the hospital for cholangitis. We did an ERCP 
and gave you antibiotics. You are now doing better and can go 
home. You will need to follow up with our clinics, as listed 
below. 

We wish you the best with your health.
___ Medicine
 
Followup Instructions:
___